US08703805B2
Preparation of 1-[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]cyclopropanol
A solution of EtMgBr in THF (1.0M, 11 mL) was added dropwise at it to a stirred solution of 1-(2-chloro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazole-3-carboxylic acid methyl ester (950 mg, 2 mmol) and Ti(OiPr)4 (0.7 mL, 2.4 mmol) in anhydrous THF (50 mL) under N2. The resulting dark mixture was stirred at it for 2 h. At 0° C. aqueous NH4Cl solution was added, extracted with Et2O. The combined extracts were washed with brine, dried over Na2SO4, and evaporated in vacuo. The crude product was purified first by flash chromatography (0-60% EtOAc/hexanes) and then by reverse HPLC to give the title compounds as a white solid (85 mg, 0.1%). 1HNMR (CDCl3): δ 8.04 (d, 1H), 7.83-7.81 (m, 1H), 7.74-7.71 (m, 1H), 7.57-7.43 (m, 5H), 7.2 (d, 1H), 6.72 (d, 1H), 6.50 9s, 1H), 3.07 (s, 3H), 2.92 (brs, 1H), 1.31 (m, 2H), 1.17 (m, 2H). MS(ES): 471[M+H]+, 453 (M-OH).

reactant | EtMgBr | CC[Mg+].[Br-]
reactant | 1-(2-chloro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazole-3-carboxylic acid methyl ester | 2 mmol, 950 mg | COC(=O)C1=NN(C(=C1)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1=C(C=CC=C1)Cl | C22H17ClN2O4S2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 1.0M, 11 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Ti(OiPr)4 | 2.4 mmol, 0.7 mL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 1-[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]cyclopropanol | 85 mg, 0.1% | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1(CC1)O | C23H19ClN2O3S2
